US09238631B2
Di-tert-butyl (4S)—N-(tert-butoxycarbonyl)-4-(3-{4-[3-(tosyloxy)propyl]phenyl}-propyl)-L-glutamate
Di-tert-butyl (4S)—N-(tert-butoxycarbonyl)-4-{3-[4-(3-hydroxypropyl)phenyl]propyl}-L-glutamate (163 mg, 0.30 mmol) was dissolved in pyridine (7 mL) and p-toluenesulfonic anhydride (Aldrich) (199 mg, 0.61 mmol) was slowly added at 0° C. The reaction was stirred for 2 h, then poured into 25 mL 1 N aqueous hydrogen chloride. The mixture was extracted with tert-butylmethyl ether (3×50 mL), the organic phases washed with saturated aqueous sodium hydrogen carbonate, dried over sodium sulfate and concentrated in vacuo. The crude product was chromatographed on silica gel using a hexane/ethyl acetate gradient, and the appropriate fractions were combined and concentrated.

reactant | Di-tert-butyl (4S)—N-(tert-butoxycarbonyl)-4-{3-[4-(3-hydroxypropyl)phenyl]propyl}-L-glutamate | 0.30 mmol, 163 mg | C(C)(C)(C)OC(=O)N[C@@H](C[C@@H](C(=O)OC(C)(C)C)CCCC1=CC=C(C=C1)CCCO)C(=O)OC(C)(C)C | C30H49NO7
reactant | p-toluenesulfonic anhydride | 0.61 mmol, 199 mg | C1(=CC=C(C=C1)S(=O)(=O)OS(=O)(=O)C1=CC=C(C=C1)C)C | C14H14O5S2
reactant | hydrogen chloride | 1 N, 25 mL | Cl | ClH
solvent | pyridine | 7 mL | N1=CC=CC=C1 | C5H5N
product | Di-tert-butyl (4S)—N-(tert-butoxycarbonyl)-4-(3-{4-[3-(tosyloxy)propyl]phenyl}-propyl)-L-glutamate | C(C)(C)(C)OC(=O)N[C@@H](C[C@@H](C(=O)OC(C)(C)C)CCCC1=CC=C(C=C1)CCCOS(=O)(=O)C1=CC=C(C)C=C1)C(=O)OC(C)(C)C | C37H55NO9S
